US07855290B2
Methyl 1-benzhydrylazetidine-3-carboxylate
A solution of 1-benzhydrylazetidine-3-carboxylic acid (4.20 g) in N,N-dimethylformamide (45 ml) were added potassium carbonate (6.53 g) and iodomethane (0.976 ml), followed by stirring at room temperature for 20.5 hr. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed, and the residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=5:1, then 3:1). Fractions containing the target compound were concentrated to provide the titled compound as yellow crystals (3.57 g, 80.8%).

reactant | 1-benzhydrylazetidine-3-carboxylic acid | 4.20 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)O | C17H17NO2
reactant | potassium carbonate | 6.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.976 ml | IC | CH3I
solvent | N,N-dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | Methyl 1-benzhydrylazetidine-3-carboxylate | 3.57 g, 80.8% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(=O)OC | C18H19NO2
